US08466186B2
b) (2,4-Dichloro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester
1,1′-Thiocarbonyldi-2-pyridone (0.42 g, 1.8 mmol) was added to a mixture of (3-amino-2,4-dichloro-benzyl)-carbamic acid tert-butyl ester (0.50 g, 1.7 mmol) and dioxane (25 mL) and stirred at rt for 2 h and at reflux for 2 d. The mixture was concentrated, diluted with DCM and filtered over silica gel. The filtrate was concentrated to give the sub-title compound.

reactant | 1,1′-Thiocarbonyldi-2-pyridone | 1.8 mmol, 0.42 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | (3-amino-2,4-dichloro-benzyl)-carbamic acid tert-butyl ester | 1.7 mmol, 0.50 g | C(C)(C)(C)OC(NCC1=C(C(=C(C=C1)Cl)N)Cl)=O | C12H16Cl2N2O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (2,4-Dichloro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=C(C=C1)Cl)N=C=S)Cl)=O | C13H14Cl2N2O2S
